US07173129B2
Ex-1B: To a solution of 3-amino-5-methylisoxazole (0.27 g, 2.75 mmol) in pyridine (1 mL) at 0° C. was added a solution of 4-acetylbenzenesulfonyl chloride (0.50 g, 2.29 mmol) in 1 mL pyridine dropwise to the reaction. The resulting solution was stirred at 0° C. for 30 min and then warmed to room temperature and stirred for an additional 18 h. The mixture was diluted with water (100 mL), cooled to 0° C., and stirred for 1 h. The resulting precipitate was collected on filter paper and rinsed with several portions of water. The filtrate was acidified with 3 N HCl and the resulting precipitate was collected and rinsed with water. The solids were combined and dried in vacuo to afford 0.50 g (80%) of 4-acetyl-N-(5-methylisoxazole-3-yl)benzenesulfonamide as a pale green solid, mp 189–190° C. 1H-NMR (300 MHz, DMSO-d6) δ 8.14 (d, 2H, J=8.1 Hz), 7.98 (d, 2H, J=8.1 Hz), 6.16 (s, 1H), 2.62 (s, 3H), 2.30 (s, 3H). HRMS (EI) Calcd. for C12H12N2O4S: 280.0518 (M+); Found: 280.0514. Anal. Calcd. for C12H12N2O4S: C, 51.42; H, 4.32; N, 9.99; S, 11.44; Found: C, 51.73; H, 4.39; N, 10.12; S, 11.30.

reactant | 3-amino-5-methylisoxazole | 2.75 mmol, 0.27 g | NC1=NOC(=C1)C | C4H6N2O
reactant | 4-acetylbenzenesulfonyl chloride | 2.29 mmol, 0.50 g | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)Cl | C8H7ClO3S
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | 4-acetyl-N-(5-methylisoxazole-3-yl)benzenesulfonamide | 0.50 g, 80% | C(C)(=O)C1=CC=C(C=C1)S(=O)(=O)NC1=NOC(=C1)C | C12H12N2O4S
